US09119868B2
Step 4: 6-(N-(3-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid
A flask containing 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid (100 mg, 0.168 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (85 mg, 0.336 mmol), potassium acetate (65.9 mg, 0.672 mmol) and PdCl2(dppf)-CH2Cl2 adduct (13.72 mg, 0.017 mmol) was evacuated and purged with nitrogen (2×) then 1,4-Dioxane (4 mL) was added and the mixture was heated to 90° C. under nitrogen for 16 h. The reaction was cooled to RT, diluted with EtOAc, filtered through Celite and water was added. The organic layer was separated, dried over Na2SO4, filtered and concentrated to dryness. The crude product was used as is in next step.

reactant | 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid | 0.168 mmol, 100 mg | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C=C1C1CC1)Cl | C25H18BrCl2NO5S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.336 mmol, 85 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.672 mmol, 65.9 mg | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.017 mmol, 13.72 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(N-(3-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid | ClC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C=C1C1CC1 | C31H30BCl2NO7S
